US08304419B2
To a solution of ammonia (7.0 N solution in MeOH) (47.5 ml, 332 mmol) was added dropwise 4-{[3-(bromomethyl)-6-chloro-2-fluorophenyl]oxy}-3-fluorobenzonitrile (1.49 g, 4.16 mmol) in solution of 20 mL DCM. The mixture was stirred overnight and the solvent was removed to give 4-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-3-fluorobenzonitrile hydrobromide (1.26 g, 3.35 mmol, 81% yield). 1H NMR (400 MHz, DMSO-d6) d ppm 8.10 (dd, 1H), 7.66 (d, 1H), 7.57-7.63 (m, 1H), 7.54 (t, 1H), 7.02 (br. s., 2H), 6.93 (t, 1H), 4.00 (s, 2H). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.10 (dd, 1H), 7.66 (d, 1H), 7.57-7.63 (m, 1H), 7.54 (t, 1H), 7.02 (br. s., 2H), 6.93 (t, 1H), 4.00 (s, 2H).

reactant | ammonia | 332 mmol, 7.0 N, 47.5 ml | N | H3N
reactant | 4-{[3-(bromomethyl)-6-chloro-2-fluorophenyl]oxy}-3-fluorobenzonitrile | 4.16 mmol, 1.49 g | BrCC=1C(=C(C(=CC1)Cl)OC1=C(C=C(C#N)C=C1)F)F | C14H7BrClF2NO
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-3-fluorobenzonitrile hydrobromide | 3.35 mmol, 1.26 g, 81% yield | Br.NCC=1C(=C(C(=CC1)Cl)OC1=C(C=C(C#N)C=C1)F)F | InChI=1S/C14H9ClF2N2O.BrH/c15-10-3-2-9(7-19)13(17)14(10)20-12-4-1-8(6-18)5-11(12)16;/h1-5H,7,19H2;1H
